US05889010
1-Benzoimidazol-1-yl-3-(4-p-tolyl-piperazin-1-yl)-propan-2-ol;
1-Benzoimidazol-1-yl-3-{4-chloro-phenyl)-phenyl-methyl!-piperazin-1 -yl}-propan-2ol; -1-Benzoimidazol-1-yl-3-[4-(2-chloro-phenyl)-piperazin-1-yl]-propan-2-ol;

reactant | 1-Benzoimidazol-1-yl-3-[4-(2-chloro-phenyl)-piperazin-1-yl]-propan-2-ol | N1(C=NC2=C1C=CC=C2)CC(CN2CCN(CC2)C2=C(C=CC=C2)Cl)O | C20H23ClN4O
reactant | propan-2ol | CC(C)O | C3H8O
product | 1-Benzoimidazol-1-yl-3-(4-p-tolyl-piperazin-1-yl)-propan-2-ol | N1(C=NC2=C1C=CC=C2)CC(CN2CCN(CC2)C2=CC=C(C=C2)C)O | C21H26N4O
